2142-01-02 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - started on neo... stopped ; continued on dopamine 9mcg
   - not synchronous w vent when sedation turned off, so pt started on
   propofol
   - after paralytic/sedation turned off, pH trended downwards; gave 1amp
   bicarb
   - started rewarming 2:30pm; still at 34.4C by 4pm
   - at 3:30pm became bradycardic, atropine given, PEA then pulseless VT
   arrest; CPR for 2 min, given 1mg atropine, 1mg epinephrine, 100 of
   lidocaine
   - re-started on neo after code
   - 4:45pm taken to Cath lab for tandem heart.
   - patient returned to CCU on heparin, neo, lidocaine and dopamine.
   - transfused 1 unit PRBC at 9pm
   - pt had poor paO2 and paCO2 on tandem heart.  Catheter adjusted to try
   to decrease right to left shunting.
   - 4:30am, patient continued to be severely hypoxic.  Perfusion called
   to add an oxygenator to tandem heart.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Insulin - Regular - 4 units/hour
   Heparin Sodium - 50 units/hour
   Dopamine - 15 mcg/Kg/min
   Phenylephrine - 1.3 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2142-1-1**] 11:14 AM
   Furosemide (Lasix) - [**2142-1-1**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-1-2**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 121 (73 - 123) bpm
   BP: 79/60(66) {65/41(48) - 102/77(80)} mmHg
   RR: 20 (8 - 35) insp/min
   SpO2: 77%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
    CVP: 15 (14 - 25)mmHg
   PAP: (50 mmHg) / (31 mmHg)
   CO/CI (Thermodilution): (2.43 L/min) / (1.8 L/min/m2)
   CO/CI (Fick): (4.1 L/min) / (3 L/min/m2)
   SVR: 1,745 dynes*sec/cm5
   Mixed Venous O2% Sat: 43 - 60
   SV: 29 mL
   SVI: 21 mL/m2
   Total In:
                                                                  3,954 mL
                                                                    932 mL
   PO:
   TF:
   IVF:
                                                                  3,514 mL
                                                                    672 mL
   Blood products:
                                                                    440 mL
                                                                    260 mL
   Total out:
                                                                    855 mL
                                                                     85 mL
   Urine:
                                                                    855 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,099 mL
                                                                    847 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (320 - 380) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 38 cmH2O
   Plateau: 31 cmH2O
   SpO2: 100%
   ABG: 7.42/31/440/21/-2
   Ve: 7.33 L/min
   PaO2 / FiO2: 1,100
   Physical Examination
   GENERAL: Intubated, unresponsive patient.
   HEENT: pupils 4mm, minimally responsive to light.
   NECK: JVP not assessed, right IJ cordis with swan-ganz catherter in
   place.
   CARDIAC: Cardiac sounds obscured by ventilator and tandem heart
   device.  No thrills, lifts.
   LUNGS: Anterolateral rales and rhonchi diffusely.
   ABDOMEN: Soft, NT.  Mildly Distended. No HSM or tenderness. Unable
   EXTREMITIES: Faint right DP pulse palpated, other pulses not palpable.
   Right radial arterial line.  Right femoral tandem heart catheters.
   Left femoral arterial line.  Significant anasarca.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   NEURO: Unresponsive, minimal papillary reflex.
   Labs / Radiology
   88 K/uL
   12.1 g/dL
   176 mg/dL
   1.3 mg/dL
   21 mEq/L
   5.2 mEq/L
   27 mg/dL
   108 mEq/L
   142 mEq/L
   36.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2142-1-1**]  08:21 PM
                             [**2142-1-1**]  09:39 PM
                             [**2142-1-1**]  10:55 PM
                             [**2142-1-1**]  11:13 PM
                             [**2142-1-1**]  11:23 PM
                             [**2142-1-2**]  01:39 AM
                             [**2142-1-2**]  02:52 AM
                             [**2142-1-2**]  03:19 AM
                             [**2142-1-2**]  04:35 AM
                             [**2142-1-2**]  06:46 AM
   WBC
   7.0
   Hct
   27.5
   36.0
   Plt
   88
   Cr
   1.2
   1.3
   TropT
   14.65
   19.34
   TCO2
   22
   25
   22
   21
   21
   23
   23
   21
   Glucose
   182
   176
   Other labs: PT / PTT / INR:15.9/>150.0/1.4, CK / CKMB /
   Troponin-T:2706/362/19.34, ALT / AST:176/500, Alk Phos / T Bili:36/1.7,
   Amylase / Lipase:180/50, Differential-Neuts:83.0 %, Band:2.0 %,
   Lymph:8.0 %, Mono:5.0 %, Eos:1.0 %, Fibrinogen:199 mg/dL, Lactic
   Acid:5.5 mmol/L, Albumin:3.5 g/dL, LDH:[**2071**] IU/L, Ca++:6.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   76 y/o F with hypertension who presented to OSH with acute ST Segment
   Elevation MI in cardiogenic shock, requiring IABP pump placement and IV
   Dopamine, who is s/p VT/VF arrest x 2.  Now s/p PEA arrest and vfib,
   spontaneous return of circulation.
   .
   .
   #Cardiogenic shock: Patient was in cardiogenic shock after PEA arrest.
   -          continue to unload LV with tandem heart device with ECMO.
   -          Titrate flow to MAP ~70
   -          Wean pressors as tolerated
   -          Continue heparin gtt for tandem heart maintenance with goal
   ACT~200
   -          Keep CVP>15 to maintain optimum flow from tandem heart.
   # Cardiac Arrest: ventricular fibrillation likely secondary to severe
   acidosis.
   -          no need for further anti-arrhythmics as patient
s acidosis
   is now corrected with ECMO
   # Hypoxemic respiratory failure: likely secondary to catheter migration
   from the tandem heart device
   -          treated effectively currently with ECMO
   -          CXR this am shows worsening pulmonary edema
   -          Patient likely also had an aspiration event during PEA
   arrest and CPR
   -          Cover potential ventilator associated pneumonia with
   cefepime and vancomycin
   # Neurologic status: definitive therapy is dependent on patient
   neurological status
   -          will wean sedation to allow for more definitive neurologic
   exam
   -          await EEG results
   -          appreciate neurology recommendations
   # STEMI: patient continues have severe LAD and left main stenosis
   -          await further clarification of patient
s neurologic status
   before progressing to CABG for definitive therapy.
   # Lactic acidosis
 resolved on ECMO
   # Hyperglycemia - No h/o DM, presented hyperglycemic.  [**Month (only) 8**] be on
   hydrocortisone w study protocol
   -          Continue insulin gtt.
   # Goals of care
 will continue to actively involve the family to
   address goals of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-12-31**] 11:50 AM
   PA Catheter - [**2142-1-1**] 02:04 PM
   Sheath - [**2142-1-1**] 07:30 PM
   Arterial Line - [**2142-1-1**] 07:30 PM
   Prophylaxis:
   DVT:  heparin gtt
   Stress ulcer: famotidine
   VAP:  vanc/cefepime
   Comments:
   Communication:  Comments: Daughter - [**Name (NI) **] - [**Telephone/Fax (1) 11243**]; (h)
   [**Telephone/Fax (1) 11244**]
   Code status: Full
   Disposition: CCU
   ------ Protected Section ------
   Attending
s note: 09.00hrs
   Reviewed data,cath findings and examined Pt.
   Unstable post AMI course to date requiring Tandem Heart support
   Rx plan as outlined by Dr.[**Last Name (STitle) **]
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**]
   Spent 40 mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2142-1-2**] 12:02 ------

2142-01-03 07:03:00 Physician Resident Progress Note
Chief Complaint: 76F with [**Hospital 11306**] [**Hospital 1605**] transferred from OSH for CABG eval
   after cardiac cath showed 95% LM disease and 99% LAD stenosis. The
   patient then syncopized at home, unresponsive for 20-30 seconds,
   vomited, severe chest pain. POBA LAD and LCx, intubated for respiratory
   distress, dopamine for hemodynamic support. Hypothermia protocal was
   initiated. Yesterday became bradycardic, atropine was given, PEA to VT
   arrest. Had CPR for 2 mintes given 1mg atropine, 1mg epinephrine, 100
   of lidocaine. Received a tandemheart in cath lab, however retracted to
   partially in the RA causing a shunt. ECMO was initiated.
   24 Hour Events:
   - Repositioning of tandem heart catheter
   - Pending Neuro re-eval off sedation for 24hrs
   - 12am - pt noted to have dropped Hct to 24 (from 36 in AM). (Tandem
   Heart rep says hemolysis not likely from machine. Did not CT for
   possible RP bleed b/c could not intervene. Pt has had some blood
   suctioned from ETT.)
   - transfused 2u PRBCs ; Hct bumped appropriately but platelets
   dropping; low suspicion HIT, per HIT protocol
   - transfused 1u platelets w approp bump
   - patient w spontaneous movements, concern for discomfort, so started
   on low dose fentanyl ~10pm?, to which she responded well, to be turned
   off early AM [**2142-1-3**]
   - patient reached warming goal of 37C 4am and was maintained at temp w
   arctic sun machine
   - Hct 26.5, plts stable 91 in AM labs --> transfusing 1u pRBCs more;
   CVP 17-18
 TRANS ESOPHAGEAL ECHO - At [**2142-1-2**] 11:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-1-2**] 10:30 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Heparin Sodium - 350 units/hour
   Dopamine - 5.3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2142-1-2**] 10:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-1-3**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 108 (88 - 132) bpm
   BP: 100/65(78) {64/57(59) - 121/85(94)} mmHg
   RR: 15 (5 - 23) insp/min
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
    CVP: 20 (14 - 29)mmHg
   PAP: (59 mmHg) / (36 mmHg)
   CO/CI (Fick): (10.9 L/min) / (7.9 L/min/m2)
   Mixed Venous O2% Sat: 73 - 87
   Total In:
                                                                  3,615 mL
                                                                    388 mL
   PO:
   TF:
   IVF:
                                                                  1,655 mL
                                                                     97 mL
   Blood products:
                                                                  1,960 mL
                                                                    292 mL
   Total out:
                                                                    789 mL
                                                                    375 mL
   Urine:
                                                                    789 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,826 mL
                                                                     17 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 200 (200 - 350) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   Plateau: 28 cmH2O
   Compliance: 14.9 cmH2O/mL
   ABG: 7.40/45/464/25/2
   Ve: 2.8 L/min
   PaO2 / FiO2: 1,160
   Physical Examination
   General Appearance: Intubated, diffusely edematous, blood from mouth
   Eyes / Conjunctiva: Pupils minimally responsive
   Cardiovascular: JVP difficult to assess - R CVL in place, heart sounds
   difficult to assess with ventilator and tandemheart device
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : anterior exam, No(t)
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Does not appear tender
   Skin:  Not assessed
   Ext: cool extremities
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   91 K/uL
   9.4 g/dL
   93 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.8 mEq/L
   37 mg/dL
   110 mEq/L
   142 mEq/L
   26.5 %
   6.6 K/uL
        [image002.jpg]
                             [**2142-1-2**]  12:04 PM
                             [**2142-1-2**]  01:11 PM
                             [**2142-1-2**]  02:27 PM
                             [**2142-1-2**]  06:00 PM
                             [**2142-1-2**]  06:10 PM
                             [**2142-1-2**]  09:30 PM
                             [**2142-1-2**]  10:38 PM
                             [**2142-1-3**]  02:21 AM
                             [**2142-1-3**]  03:03 AM
                             [**2142-1-3**]  04:42 AM
   WBC
   7.7
   6.8
   6.6
   Hct
   23.5
   34
   30.4
   28.5
   26.5
   Plt
   46
   97
   91
   Cr
   1.3
   1.3
   TCO2
   20
   21
   26
   22
   27
   29
   Glucose
   118
   124
   93
   Other labs: PT / PTT / INR:15.5/115.9/1.4, CK / CKMB /
   Troponin-T:2706/362/19.34, ALT / AST:271/659, Alk Phos / T Bili:33/3.0,
   Amylase / Lipase:180/50, Differential-Neuts:83.0 %, Band:2.0 %,
   Lymph:8.0 %, Mono:5.0 %, Eos:1.0 %, Fibrinogen:199 mg/dL, Lactic
   Acid:3.1 mmol/L, Albumin:3.5 g/dL, LDH:1354 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.1 mg/dL
   Imaging: [**2142-1-2**] CXR: pending: appears improved from yesterday, still R
   consolidation
   [**2142-1-2**] TTE: There is a large-bore (VAD) catheter seen in the right
   atrium. There is severe regional left ventricular systolic dysfunction
   with anterior, septal and apical akinesis. There is mild hypokinesis of
   the remaining segments (LVEF = 25%). No masses or thrombi are seen in
   the left ventricle. Right ventricular chamber size is normal. with
   borderline normal free wall function. The aortic valve leaflets (3) are
   mildly thickened but aortic stenosis is not present. Mild to moderate
   ([**12-2**]+) aortic regurgitation is seen. The mitral valve leaflets are
   mildly thickened. Mild (1+) mitral regurgitation is seen.
   IMPRESSION: Severe regional left ventricular systolic dysfunction c/w
   LAD disease. Mild to moderate aortic regurgitation. Mild mitral
   regurgitation.
   Microbiology: [**2142-1-1**] Urine Cx: gram - rods > 100,000
   Assessment and Plan
   76 y/o F with hypertension who presented to OSH with acute ST Segment
   Elevation MI in cardiogenic shock, requiring IABP pump placement and IV
   Dopamine, who is s/p VT/VF arrest x 2.  Now s/p PEA arrest and vfib,
   spontaneous return of circulation.
   76F with [**Hospital 11306**] [**Hospital 1605**] transferred from OSH for CABG eval after cardiac cath
   showed 95% LM disease and 99% LAD stenosis. The patient then syncopized
   at home, unresponsive for 20-30 seconds, vomited, severe chest pain.
   POBA LAD and LCx, intubated for respiratory distress, dopamine for
   hemodynamic support. Hypothermia protocal was initiated. Yesterday
   became bradycardic, atropine was given, PEA to VT arrest. Had CPR for 2
   mintes given 1mg atropine, 1mg epinephrine, 100 of lidocaine. Received
   a tandemheart in cath lab, however retracted to partially in the RA
   causing a shunt. ECMO was initiated.
   #Cardiogenic shock: Patient was in cardiogenic shock after PEA arrest.
   -          continue to unload LV with tandem heart device with ECMO.
   -          Titrate flow to MAP ~70
   -          Wean pressors as tolerated
   -          Continue heparin gtt for tandem heart maintenance with goal
   ACT~200
   -          Keep CVP>15-20 to maintain optimum flow from tandem heart.
   # Hypoxemic respiratory failure: New respiratory failure likely
   secondary to catheter migration from tandem heart device. Other
   respiratory failure may be secondary to acute congestive heart failure.
   -          treated effectively currently with ECMO
   -          CXR with worsened edema - ?secondary to decreased peep vs
   other etiology
   -          Patient likely also had an aspiration event during PEA
   arrest and CPR
   -          Cover potential ventilator associated pneumonia with
   cefepime and vancomycin (day [**1-8**]), plan for 8 day course for VAP
   -          Diurese today -  40mg IV lasix
   # Anemia: unclear etiology at this time. Required 3u PRBCs. [**Month (only) 8**] be
   secondary to hemolysis from catheters. Worrisome for RP bleed. Will
   continue to monitor and transfuse as necessary. ENT to evaluate mouth
   bleed.
   #. Thrombocytopenia: unclear etiology. Required 1u plt. Will continue
   to monitor. [**Month (only) 8**] be secondary to consumption from catheters. Seems too
   early to be related to HIT. Will continue to trend.
   # Neurologic status: definitive therapy is dependent on patient
   neurological status. Neurology has been unable to fully weigh in due to
   concerns of patient still being sedate. Will readdress issue today.
   -          will wean sedation to allow for more definitive neurologic
   exam
   -          await EEG results
   -          appreciate neurology recommendations
   # Cardiac Arrest: ?ventricular fibrillation (prior to OSH) likely
   secondary to severe acidosis.
   -          no need for further anti-arrhythmics as patient
s acidosis
   is now corrected with tandemheart and ECMO
   # STEMI: patient continues have severe LAD and left main stenosis
   -          await further clarification of patient
s neurologic status
   before progressing to CABG for definitive therapy.
   # Lactic acidosis
 resolved on ECMO
   # Hyperglycemia - No h/o DM, presented hyperglycemic.  [**Month (only) 8**] be on
   hydrocortisone w study protocol
   -          Continue insulin gtt.
   # Goals of care
 will continue to actively involve the family to
   address goals of care. Once neuro status determined will have goals of
   care meeting.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2141-12-31**] 11:50 AM
   PA Catheter - [**2142-1-1**] 02:04 PM
   Sheath - [**2142-1-1**] 07:30 PM
   Arterial Line - [**2142-1-1**] 07:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Daughter [**Name (NI) **] [**Telephone/Fax (3) 11307**]
   Code status: Full code
   Disposition:ICU